US07741326B2
In an oven dried flask was added BINAP (racemic, 0.17 g, 0.913 mmol), cesium carbonate (0.35 g, 1.07 mmol), tris(dibenzylideneacetone)dipalladium (0.0207 g, 0.0226 mmol), 1-BOC-piperazine (0.17 g, 0.913 mmol) and 5 ml DMF. The flask was evacuated and refilled with nitrogen. 3-benzyl-7-bromo-5-methyl-benzofuran-2-carbonitrile (0.29 g, 0.90 mmol) in 5 ml DMF was added via syringe and the mixture heated to 80° C. overnight, then to 100° C. for another 24 hours. The mixture was concentrated on a rotary evaporator and purified by column chromatography (1:9 ethyl acetate/hexane) to give 4-(3-benzyl-2-cyano-5-methyl-benzofuran-7-yl)-piperazine-1-carboxylic acid tert-butyl ester (0.174 g, 45% yield) as a yellow solid.

reactant | BINAP | 0.913 mmol, 0.17 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 1.07 mmol, 0.35 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-BOC-piperazine | 0.913 mmol, 0.17 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 3-benzyl-7-bromo-5-methyl-benzofuran-2-carbonitrile | 0.90 mmol, 0.29 g | C(C1=CC=CC=C1)C1=C(OC2=C1C=C(C=C2Br)C)C#N | C17H12BrNO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0226 mmol, 0.0207 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(3-benzyl-2-cyano-5-methyl-benzofuran-7-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.174 g, 45% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=2C(=C(OC21)C#N)CC2=CC=CC=C2)C | C26H29N3O3
